US06887877B2
To a stirred solution of 2-[(3-Bromo-thiophen-2-ylmethyl)-amino]-3-phenyl-propionic acid tert-butyl ester (91.6 mg, 0.231 mmol) in dichloromethane (3.3 ml) and N,N-diisopropylethylamine (44 μl) was added a solution of 2,4-Dichloro-benzoyl chloride (34 μl, 0.243 mmol) in dichloromethane (1.3 ml). The reaction mixture was stirred at room temperature under nitrogen overnight. Then, the mixture was extracted with sodium bicarbonate/dichloromethane. The extract was dried (sodium sulfate) and evaporated under reduced pressure to yield 2-[(3-Bromo-thiophen-2-ylmethyl)-(2,4-dichloro-benzoyl)-amino]-3-phenyl-propionic acid tert-butyl ester with 92% yield. 1H NMR(Varian 400 MHz, CDCl3) δ(ppm) presence of rotomers 8.08 (d, 0.5H, J=8.7 Hz, ArH), 7.56 (d, 0.5H, J=2.0 Hz, ArH), 7.40 (m, 2H, ArH), 7.23 (m, 2.5H, ArH), 6.99 (d, 0.5H, J=5.4 Hz, ArH), 6.92 (m, 2H, ArH), 6.83 (d, 0.5H, J=5.0 Hz, ArH), 6.54 (d, 1H, J=7.1 Hz, ArH), 5.78 (d, 0.5H, J=8.0 Hz, ArH), 5.20 (m, 1H, NCH2), 4.85 (m, 1H, NCH2), 4.16 (m, 1H, CHCH2), 3.10 (m, 2H, CHCH2), 1.47 (s, 9H, tBu).

reactant | 2-[(3-Bromo-thiophen-2-ylmethyl)-amino]-3-phenyl-propionic acid tert-butyl ester | 0.231 mmol, 91.6 mg | C(C)(C)(C)OC(C(CC1=CC=CC=C1)NCC=1SC=CC1Br)=O | C18H22BrNO2S
reactant | 2,4-Dichloro-benzoyl chloride | 0.243 mmol, 34 μl | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | dichloromethane | 3.3 ml | ClCCl | CH2Cl2
solvent | N,N-diisopropylethylamine | 44 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 1.3 ml | ClCCl | CH2Cl2
product | 2-[(3-Bromo-thiophen-2-ylmethyl)-(2,4-dichloro-benzoyl)-amino]-3-phenyl-propionic acid tert-butyl ester | 92% yield | C(C)(C)(C)OC(C(CC1=CC=CC=C1)N(C(C1=C(C=C(C=C1)Cl)Cl)=O)CC=1SC=CC1Br)=O | C25H24BrCl2NO3S
